US05183820
Ethyl 7-fluoro-1-methyl-1H-indole-2-carboxylate
To a suspension of sodium hydride (73.2% dispersion in oil; 962 mg) in dry THF (50 ml) under nitrogen at 0° was added ethyl 7-fluoro-1H-indole-2-carboxylate (5.5 g) in dry THF (50 ml), and the mixture was stirred for 1 h. Methyl iodide (2.16 ml) was added, and the mixture was stirred for 2 h, then at 50° for 3 h. The mixture was quenched with 10% aqueous THF (5 ml), diluted with ether (500 ml), washed with saturated brine solution (2×500 ml), dried and evaporated in vacuo to leave an oil. This was purified by FCC eluting with hexane:ether (20:1) to give the title compound (4.53 g) as a liquid, t.l.c. (hexane:ether, 20:1) Rf 0.37.

reactant | sodium hydride | 962 mg | [H-].[Na+]
reactant | ethyl 7-fluoro-1H-indole-2-carboxylate | 5.5 g | FC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H10FNO2
reactant | Methyl iodide | 2.16 ml | CI | CH3I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl 7-fluoro-1-methyl-1H-indole-2-carboxylate | 4.53 g | FC=1C=CC=C2C=C(N(C12)C)C(=O)OCC | C12H12FNO2
